US05102897
Thiophosgene (0.55 mL, 6.80 mmol) is added dropwise to a -78° C. solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzenepropanoic acid hydrazide (2.0 g, 6.8 mmol) in tetrahydrofuran (200 mL). The reaction mixture is stirred for 10 minutes then poured into a separatory funnel containing ethyl acetate and aqueous sodium bicarbonate. The organic phase is washed three times with water and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives a heavy oil which is crystallized from ethyl acetate/hexane. The product is chromatographed on a column of silica with ethyl acetate/dichloromethane (5/95) and recrystallized from dichloromethane/hexane to afford 0.36 g (16%) of 5-[2-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethyl]-1,3,4-oxadiazole-2(3H)-thione, mp 164.5°-165.5° C.

reactant | Thiophosgene | 6.80 mmol, 0.55 mL | C(=S)(Cl)Cl | CCl2S
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzenepropanoic acid hydrazide | 6.8 mmol, 2.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-[2-[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]ethyl]-1,3,4-oxadiazole-2(3H)-thione | 0.36 g, 16% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC1=NNC(O1)=S | C18H26N2O2S
